US07642264B2
5-{1-[4-(4-Chloro-phenyl)-6-methyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-pyridin-2-ylamine
The title compound was prepared from 2-(4-bromo-imidazol-1-yl)-4-(4-chloro-phenyl)-6-methyl-pyrimidine (example E.12) (0.14 g, 0.4 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.088 g, 0.4 mmol) according to the general procedure VI. Obtained as a light yellow solid (0.045 g, 31%). MS (ISP) 363.1 [(M+H)+]; mp 206-208° C.

reactant | 2-(4-bromo-imidazol-1-yl)-4-(4-chloro-phenyl)-6-methyl-pyrimidine | 0.4 mmol, 0.14 g | BrC=1N=CN(C1)C1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C | C14H10BrClN4
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.4 mmol, 0.088 g | NC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H17BN2O2
product | 5-{1-[4-(4-Chloro-phenyl)-6-methyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-pyridin-2-ylamine | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C)N1C=NC(=C1)C=1C=CC(=NC1)N | C19H15ClN6
